US05712281
This compound is prepared in a manner analogous to that of Example 1, using 3.2 grams (0.013 mole) of 4-[2-(3-chlorophenyl)propan-yl]cyclohexanone and 1.2 grams (0.014 mole) of cyanoguanidine in 2-(2-ethoxyethoxy)ethanol, yielding 2,4-diamino-6-[2-(3-chlorophenyl)propan-2-yl]-5,6,7,8-tetrahydroquinazoline.

reactant | 4-[2-(3-chlorophenyl)propan-yl]cyclohexanone | 0.013 mole, 3.2 grams | ClC=1C=C(C=CC1)C(CC1CCC(CC1)=O)C | C15H19ClO
reactant | cyanoguanidine | 0.014 mole, 1.2 grams | C(#N)NC(=N)N | C2H4N4
reactant | 2-(2-ethoxyethoxy)ethanol | C(C)OCCOCCO | C6H14O3
product | 2,4-diamino-6-[2-(3-chlorophenyl)propan-2-yl]-5,6,7,8-tetrahydroquinazoline | NC1=NC=2CCC(CC2C(=N1)N)C(C)(C)C1=CC(=CC=C1)Cl | C17H21ClN4
